US07250418B2
Preparation of N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine but substituting 2-bromopyrimidine and starting with N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.15, 1.28, 2.13, 2.48, 2.74, 3.51, 3.77, 3.85, 3.98, 4.25, 4.90, 5.20, 6.56, 6.81, 7.12, 8.37; IR (diffuse reflectance) 2970, 2402 (w), 2350 (w), 2307 (w), 2212 (w), 2169 (w), 1583 (s), 1568, 1548 (s), 1508 (s), 1475 (s), 1393, 1383, 1242, 798 cm−1 HRMS (ESI) calcd for C26H34N6O2+H1 463.2821. found 463.2816.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl}-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 2-bromopyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C22H32N4O2
product | N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CN(C1)C1=NC=CC=N1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)C)CC | C26H34N6O2
